US09284323B2
Preparation of (S)-ethyl 2-tert-butoxy-2-(10 (trifluoromethylsulfonyloxy)phenanthren-9-yl)acetate:
Prepared by the similar method to make (S)-ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyacetate in Example 20, using ethyl 2-oxo-2-(10-(trifluoromethylsulfonyloxy)phenanthren-9-yl)acetate instead of ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-oxoacetate. 1H-NMR: 400 MHz, (CDCl3) δ: 8.74-8.69 (m, 2H), 8.41 (d, J=4.4 Hz, 1H), 8.19 (d, J=4.2 Hz, 1H), 7.79-7.61 (m, 4H), 6.00 (s, 1H), 4.189-4.14 (m, 1H), 4.05-4.00 (m, 1H), 1.25 (s, 9H), 1.03 (t, J=7 Hz, 3H).

reactant | (S)-ethyl 2-(6-bromo-3-methyl-1-(trifluoromethylsulfonyloxy)naphthalen-2-yl)-2-tert-butoxyacetate | BrC=1C=C2C=C(C(=C(C2=CC1)OS(=O)(=O)C(F)(F)F)[C@@H](C(=O)OCC)OC(C)(C)C)C | C20H22BrF3O6S
reactant | ethyl 2-oxo-2-(10-(trifluoromethylsulfonyloxy)phenanthren-9-yl)acetate | O=C(C(=O)OCC)C=1C2=CC=CC=C2C=2C=CC=CC2C1OS(=O)(=O)C(F)(F)F | C19H13F3O6S
product | (S)-ethyl 2-tert-butoxy-2-(10 (trifluoromethylsulfonyloxy)phenanthren-9-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C2=CC=CC=C2C=2C=CC=CC2C1OS(=O)(=O)C(F)(F)F | C23H23F3O6S
